US04180670
N-(Diphenylmethyl)-4-pyridinamine
24.7 Grams (0.1 mole) of diphenylbromomethane and 29.4 grams (0.3 mole) of 4-aminopyridine in 500 milliliters of toluene were heated under reflux with stirring for 20 hours. The solid formed was filtered off and the toluene was extracted with 2 N hydrochloric acid. The acid extracts were combined with the solid material and the solid was taken into solution by the addition of water and methanol. The alcoholic solution was basified with 5 N sodium hydroxide and extracted with toluene. After drying over magnesium sulphate, the solvent was removed and 8.01 grams of the title compound were obtained as the crude crystalline base, m.p. 148°-50° C. The base was converted into its hydrochloride by solution in the minimum quantity of 2-propanol and addition of a solution of hydrogen chloride in dry ether. The hydrochloride was obtained as a colourless solid, m.p. 237°-9° C.

reactant | diphenylbromomethane | 0.1 mole | C1(=CC=CC=C1)C(Br)C1=CC=CC=C1 | C13H11Br
reactant | 4-aminopyridine | 0.3 mole, 29.4 grams | NC1=CC=NC=C1 | C5H6N2
solvent | toluene | 500 milliliters | C1(=CC=CC=C1)C | C7H8
product | N-(Diphenylmethyl)-4-pyridinamine | 8.01 grams | C1(=CC=CC=C1)C(NC1=CC=NC=C1)C1=CC=CC=C1 | C18H16N2
